US07683060B2
Step 7. methyl 2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoate
A mixture of methyl 2-fluoro-4-(3-hydrazino-1,2,4-triazin-6-yl)benzoate (0.17 g, 0.64 mmol) and 1-quinolin-6-ylcyclopropanecarbaldehyde (0.13 g, 0.64 mmol) in ethanol (10 mL) and acetic acid (1 mL) was stirred at RT for 2 h. The mixture was concentrated. The residue was dissolved in methylene chloride (5 mL). To the solution was added iodobenzene diacetate (230 mg, 0.71 mmol) with stirring. The mixture was stirred at RT for 2 h then concentrated. The residue was flash chromatographed on a silica gel column to give the desired product (150 mg). Analytical LCMS: (M+H)+=441.0.

reactant | methyl 2-fluoro-4-(3-hydrazino-1,2,4-triazin-6-yl)benzoate | 0.64 mmol, 0.17 g | FC1=C(C(=O)OC)C=CC(=C1)C1=CN=C(N=N1)NN | C11H10FN5O2
reactant | 1-quinolin-6-ylcyclopropanecarbaldehyde | 0.64 mmol, 0.13 g | N1=CC=CC2=CC(=CC=C12)C1(CC1)C=O | C13H11NO
reactant | iodobenzene diacetate | 0.71 mmol, 230 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | methyl 2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoate | 150 mg | FC1=C(C(=O)OC)C=CC(=C1)C=1C=NC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C24H17FN6O2
